US06498156B2
f) 5-[3-(3-Butyl-7-dimethylamino-3-ethyl-4-hydroxy-1,1-dioxo-2,3,4,5-tetrahydro-1H-benzo[b]thiepin-5-yl)-phenylcarbamoyl]pentanoic Acid (7)
2 g of 5-(3-aminophenyl)-3-butyl-7-dimethylamino-3-ethyl-1,1-dioxo-2,3,4,5-tetra-hydro-1H-benzo[b]thiepin-4-ol, 3.4 g of hexanedioic acid, 1.04 g of dicyclohexylcarbodiimide and 640 mg of benzotriazol-1-ol in 80 ml of tetrahydrofuran are stirred at room temperature overnight. The mixture is concentrated, the residue is taken up in ethyl acetate, excess urea is removed by filtration and the mixture is washed with water. The residue of the dried organic phase is purified by column filtration (SiO2, dichloromethane/methanol=20:1). This gives the product of molecular weight 558.7 (C30H42N2O6S); MS (ESI+): 559 (M+H+).

reactant | 5-(3-aminophenyl)-3-butyl-7-dimethylamino-3-ethyl-1,1-dioxo-2,3,4,5-tetra-hydro-1H-benzo[b]thiepin-4-ol | 2 g | NC=1C=C(C=CC1)C1C2=C(S(CC(C1O)(CC)CCCC)(=O)=O)C=CC(=C2)N(C)C | C24H34N2O3S
reactant | hexanedioic acid | 3.4 g | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | dicyclohexylcarbodiimide | 1.04 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | benzotriazol-1-ol | 640 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 5-[3-(3-Butyl-7-dimethylamino-3-ethyl-4-hydroxy-1,1-dioxo-2,3,4,5-tetrahydro-1H-benzo[b]thiepin-5-yl)-phenylcarbamoyl]pentanoic Acid | C(CCC)C1(C(C(C2=C(S(C1)(=O)=O)C=CC(=C2)N(C)C)C=2C=C(C=CC2)NC(=O)CCCCC(=O)O)O)CC | C30H42N2O6S
